US04227000
Equimolar amounts of 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone and 4-(3-methoxy-2-pyridyl)butylamine were heated together under reflux in ethanol for 24 hours. An additional 0.1 molar equivalent of the amine was added and the mixture was heated under reflux for a further 24 hours, evaporated to dryness and purified to give 2-[4-(3-methoxy-2-pyridyl)butylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone dihydrate, m.p. 93°-94°.

reactant | 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
reactant | 4-(3-methoxy-2-pyridyl)butylamine | COC=1C(=NC=CC1)CCCCN | C10H16N2O
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(3-methoxy-2-pyridyl)butylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone dihydrate | O.O.COC=1C(=NC=CC1)CCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | InChI=1S/C22H27N5O2.2H2O/c1-15-11-17(13-25-16(15)2)12-18-14-26-22(27-21(18)28)24-9-5-4-7-19-20(29-3)8-6-10-23-19;;/h6,8,10-11,13-14H,4-5,7,9,12H2,1-3H3,(H2,24,26,27,28);2*1H2
